US04935430
4-(4-Cyanophenyl)-3,5-dimethyl-1,2,4-triazole
Hydrazine hydrate (1.64 ml, 34 mmol) was added dropwise to a solution of p-cyanothioacetanilide prepared according to J. Pharm. Soc. Jpn., 1952, 72, 739 (5.43 gm, 30.9 mmol) in THF (50 ml) at room temperature. After 30 minutes, the solution was concentrated under reduced pressure and the residue treated with triethyl orthoacetate (40 ml). The mixture was heated at 80° C. for 30 minutes, cooled and the excess reagent was removed under reduced pressure. The residue was treated with ice-cold dilute aqueous ammonia (100 ml) and the product was filtered off, washed with water and dried in vacuo. The title triazole (4.85 g) was an off-white solid, m.p. >230° C.

reactant | Hydrazine hydrate | 34 mmol, 1.64 ml | O.NN
reactant | p-cyanothioacetanilide | C(#N)C1=CC=C(NC(C)=S)C=C1 | C9H8N2S
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(4-Cyanophenyl)-3,5-dimethyl-1,2,4-triazole | C(#N)C1=CC=C(C=C1)N1C(=NN=C1C)C | C11H10N4
